US04536505
5-Bromo-N-(3-pyridyl)indole is prepared from 5-bromoindole and 3-bromopyridine using methodology described in the previous examples.

reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
product | 5-Bromo-N-(3-pyridyl)indole | BrC=1C=C2C=CN(C2=CC1)C=1C=NC=CC1 | C13H9BrN2
